US08168658B2
4-{1-[(Acetylamino)methyl]-2-anilino-2-oxoethyl}benzoic acid (232 mg, 0.71 mmol), EDCI (176 mg, 0.92 mmol), and HOBT (124 mg, 0.92 mmol) were combined in DMF (8 mL) and stirred for 10 minutes before adding tert-butyl [2-amino-4-(3-thienyl)phenyl]carbamate (227 mg, 0.78 mmol). The reaction was then stirred at 60° C. for 24 h. The solution was cooled to room temperature, poured into water (40 mL), and filtered to collect an orange solid. The crude solid was dissolved in CH2Cl2 (25 mL) and hexanes (20 mL), concentrated to half volume, and filtered to give tert-butyl[2-[(4-{1-[(acetylamino)methyl]-2-anilino-2-oxoethyl}benzoyl)amino]-4-(3-thienyl)phenyl]carbamate as a white solid. MS (ESI) calcd [M+H]+ 599.2, found 599.1.

reactant | 4-{1-[(Acetylamino)methyl]-2-anilino-2-oxoethyl}benzoic acid | 0.71 mmol, 232 mg | C(C)(=O)NCC(C(=O)NC1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C18H18N2O4
reactant | EDCI | 0.92 mmol, 176 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.92 mmol, 124 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | tert-butyl [2-amino-4-(3-thienyl)phenyl]carbamate | 0.78 mmol, 227 mg | NC1=C(C=CC(=C1)C1=CSC=C1)NC(OC(C)(C)C)=O | C15H18N2O2S
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | tert-butyl[2-[(4-{1-[(acetylamino)methyl]-2-anilino-2-oxoethyl}benzoyl)amino]-4-(3-thienyl)phenyl]carbamate | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CSC=C1)NC(C1=CC=C(C=C1)C(C(=O)NC1=CC=CC=C1)CNC(C)=O)=O)=O | C33H34N4O5S
